US06265445B1
4-(Methanesulfonamido)phenylacetic acid
In a solution containing 5.44 g (53 mmol) of sodium carbonate in 36 ml of water, 3.2 g (20 mmol) of 4-aminophenylacetic acid are dissolved, 1.7 ml (2.48 g, 22 mmol) of methanesulfonyl chloride are added in one portion and the mixture is heated at 85° C. for 4 hours. After cooling down and acidifying the reaction mixture to pH 3 with concentrated hydrochloric acid, the mixture is cooled in the refrigerator overnight, filtered, washed with water and dried to obtain 2.7 g of a crude product, which is recrystallized from 6 ml of hot water to give 2.40 g of the title substance as beige laminar crystals; yield: 53%, m.p.: 145-147° C.

reactant | sodium carbonate | 53 mmol, 5.44 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-aminophenylacetic acid | 20 mmol, 3.2 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | methanesulfonyl chloride | 22 mmol, 1.7 ml, 2.48 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 36 ml | O | H2O
product | 4-(Methanesulfonamido)phenylacetic acid | 2.7 g, yield: 53% | CS(=O)(=O)NC1=CC=C(C=C1)CC(=O)O | C9H11NO4S
